US04355179
Ethyl-2-(2-chloro-4-propionylphenoxy)acetate (4 g) was dissolved in methanol (40-50 ml). HCl (2 drops, conc) was added, followed by the dropwise addition over 5-10 minutes of bromine (2.62 g, 0.016 mole). After the bromine addition was complete the mixture was heated on a steam bath for 15-30 minutes allowing much of the solvent to evaporate. The residue was washed with cold water and the remaining solid recrystallized several times from hexane to give methyl 2-[2-chloro-4-(2-bromopropionyl)phenoxy]acetate (4.6 g, 90%, mp 63°-65° C.

reactant | Ethyl-2-(2-chloro-4-propionylphenoxy)acetate | 4 g | C(C)OC(COC1=C(C=C(C=C1)C(CC)=O)Cl)=O | C13H15ClO4
reactant | bromine | 0.016 mole, 2.62 g | BrBr | Br2
solvent | methanol | 40-50 ml | CO | CH4O
catalyst | HCl | 2 drops | Cl | ClH
product | methyl 2-[2-chloro-4-(2-bromopropionyl)phenoxy]acetate | ClC1=C(OCC(=O)OC)C=CC(=C1)C(C(C)Br)=O | C12H12BrClO4
